US07482462B2
1.48 ml of (diethoxy-phosphoryl)-fluoro-acetic acid ethyl ester are added dropwise to a suspension of 317 mg of NaH (55% in mineral oil) in 30 ml of THF at 0°. The mixture obtained is stirred, 1.37 g of 3,3-dimethyl-butyric acid 4-oxo-adamantan-1-yl ester in 10 ml of THF are added slowly and the mixture obtained is stirred at RT overnight. The mixture obtained is diluted with EtAc and the diluted mixture obtained is washed with 1M aqueous NaH2PO4 and saturated aqueous NaHCO3 solution. The organic layer obtained is dried, solvent is evaporated and the evaporation residue obtained is subjected to chromatography on silica gel. 3,3-Dimethyl-butyric acid 4-(fluoro-ethoxycarbonyl-methylene)-adamantan-1-yl ester is obtained in the form of an oil.

reactant | (diethoxy-phosphoryl)-fluoro-acetic acid ethyl ester | 1.48 ml | C(C)OC(C(F)P(=O)(OCC)OCC)=O | C8H16FO5P
reactant | NaH | 317 mg | [H-].[Na+]
reactant | 3,3-dimethyl-butyric acid 4-oxo-adamantan-1-yl ester | 1.37 g | O=C1C2CC3(CC(CC1C3)C2)OC(CC(C)(C)C)=O | C16H24O3
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3,3-Dimethyl-butyric acid 4-(fluoro-ethoxycarbonyl-methylene)-adamantan-1-yl ester | FC(C(=O)OCC)=C1C2CC3(CC(CC1C3)C2)OC(CC(C)(C)C)=O | C20H29FO4
